US07825119B2
Stage a)—Synthesis of tert-butyl 3-[5-ethyl-6-[4-(5,6,7,8-tetrahydro-(1,8)naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino]-2-(4-methoxy benzoyl)-propionate
40 mg (0.233 mmoles) of 4-methoxy-benzoyl chloride in solution in 3 ml of dichloromethane is added to a mixture of 112.5 mg (0.233 mmoles) of tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate in solution in 6 ml of dichloromethane and 650 μl of pyridine. The reaction mixture is stirred at ambient temperature for 1 hour. Then, the solvent is evaporated off under reduced pressure (2 kPa) and the residue is chromatographed on silica gel with the following eluent; ethyl acetate-dichloromethane (50-50), ethyl acetate-dichloromethane/methanol (95/5) 50-50 then finishing with ethyl acetate-dichloromethane/methanol (9/1) 50-50. 98 mg of expected product is obtained.

reactant | 4-methoxy-benzoyl chloride | 0.233 mmoles, 40 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | tert-butyl 2-amino-3-{5-ethyl-6-[4-(5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino}-propionate | 0.233 mmoles, 112.5 mg | NC(C(=O)OC(C)(C)C)CNC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=2NCCCC2C=C1 | C26H39N7O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | pyridine | 650 μl | N1=CC=CC=C1 | C5H5N
product | tert-butyl 3-[5-ethyl-6-[4-(5,6,7,8-tetrahydro-(1,8)naphthyridin-2-yl)-piperidin-1-yl]-pyrimidin-4-ylamino]-2-(4-methoxy benzoyl)-propionate | 98 mg | C(C)C=1C(=NC=NC1N1CCC(CC1)C1=NC=2NCCCC2C=C1)NCC(C(=O)OC(C)(C)C)C(C1=CC=C(C=C1)OC)=O | C34H44N6O4
